US06835732B2
Methyl-pyridin-2-yl-methyl-amine
Using 2-chloromethyl-pyridine hydrochloride salt and 33% methylamine/EtOH the title compound was obtained as a colourless liquid (0.1 mm Hg, 47-48° C.) (20% yield), MS: m/e=93.1 (M—NHCH3).

reactant | 2-chloromethyl-pyridine hydrochloride salt | Cl.ClCC1=NC=CC=C1
reactant | methylamine EtOH | CN.CCO
product | Methyl-pyridin-2-yl-methyl-amine | 20% yield | CN(C)C1=NC=CC=C1 | C7H10N2
